US07592363B2
Preparation of 3-(4-methoxy-phenyl)-7-trifluoromethyl-1H-indazole (compound of formula (VI))
(2-Fluoro-3-trifluoromethyl-phenyl)-(4-methoxy-phenyl)-methanone (59.6 mg, 0.2 mmol) was dissolved in 1 ml of pyridine. Hydrazine hydrate (97 μl, 2 mmol) and 4-(dimethylamino)-pyridine (24.4 mg, 0.2 mmol) were added. The reaction mixture was stirred overnight at 100° C. After cooling to room temperature, EtOAc and 1M HCl were added. The organic phase was washed three times with brine, dried over MgSO4 and concentrated under vacuum. Purification of the crude product by flash column chromatography on silica gel (n-heptane/ethyl acetate, 85:15) afforded 56 mg of the analytically pure product.

reactant | (2-Fluoro-3-trifluoromethyl-phenyl)-(4-methoxy-phenyl)-methanone | 0.2 mmol, 59.6 mg | FC1=C(C=CC=C1C(F)(F)F)C(=O)C1=CC=C(C=C1)OC | C15H10F4O2
reactant | Hydrazine hydrate | 2 mmol, 97 μl | O.NN
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | HCl | 1M | Cl | ClH
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
catalyst | 4-(dimethylamino)-pyridine | 0.2 mmol, 24.4 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 3-(4-methoxy-phenyl)-7-trifluoromethyl-1H-indazole | COC1=CC=C(C=C1)C1=NNC2=C(C=CC=C12)C(F)(F)F | C15H11F3N2O
